US07358288B2
composite membranes of polyetherimide and nanodispersed silicium oxide, made by hydrolysis of TEOS in solutions of polyetherimide Ultem® in NMP by adding of 0.15 M HCl solution. After hydrolysis dense or phase inversed membranes are made from this polymer solution. Compatibility of the inorganic with the organic phase was obtained by extra addition of 3-aminopropyltrimethoxysilane (AS) (Membranes of poly(ether imide) and nanodispersed silica, S. P. Nunes, K. V. Peinemann, K, Ohlrogge, A. Alpers, M. Keller, A. T. N. Pires, J. Memb. Sci. 157 (1999) 219-226)).

reactant | TEOS | CCO[Si](OCC)(OCC)OCC | C8H20O4Si
reactant | HCl | 0.15 M | Cl | ClH
reactant | NMP | CN1CCCC1=O | C5H9NO
product | 3-aminopropyltrimethoxysilane | NCCC[Si](OC)(OC)OC | C6H17NO3Si
